US09260376B2
Synthesis of 4-{[(1′S,2′S)-1′-(L-valyloxy)-1′,3′-dihydro-1H,2′H-2,2′-biinden-2′-yl]methyl}benzoic acid (29)
To a solution of 4-(((1S,2S)-1-hydroxy-2,3-dihydro-1H,1′H-[2,2′-biinden]-2-yl)methyl)benzoic acid (230 mg, 0.60 mmol), DCC (148 mg, 0.72 mmol) and DMAP (7 mg, 0.06 mmol) in ethyl acetate (12 mL), was added N-[(9H-fluoren-9-ylmethoxy)carbonyl]-L-valine (193 mg, 0.60 mmol) and then stirred at room temperature for 12 h. The solids were filtered, washed with ethyl acetate (25 ml) and the combined filtrate was washed with 1.5 N HCl (25 mL), water (25 mL), brine (10 mL), dried over anhydrous Na2SO4. The organic layer was evaporated under reduced pressure and the residue 1 (250 mg) was dissolved in dry THF (8 mL) and cooled to 0° C. Dimethylamine (8 mL, 20% in THF) was added drop wise at N2 atmosphere and the reaction mixture was slowly allowed to stir at room temperature for 1 h. The reaction mixture was evaporated under reduced pressure and the residue was purified by CombiFlash using 10% methanol in chloroform as an eluent to yield 105 mg (36%) of the title compound as an off white solid.

reactant | 4-(((1S,2S)-1-hydroxy-2,3-dihydro-1H,1′H-[2,2′-biinden]-2-yl)methyl)benzoic acid | 0.60 mmol, 230 mg | O[C@H]1[C@@](CC2=CC=CC=C12)(C=1CC2=CC=CC=C2C1)CC1=CC=C(C(=O)O)C=C1 | C26H22O3
reactant | DCC | 0.72 mmol, 148 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | N-[(9H-fluoren-9-ylmethoxy)carbonyl]-L-valine | 0.60 mmol, 193 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](C(C)C)C(=O)O | C20H21NO4
catalyst | DMAP | 0.06 mmol, 7 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ethyl acetate | 12 mL | C(C)(=O)OCC | C4H8O2
product | 4-{[(1′S,2′S)-1′-(L-valyloxy)-1′,3′-dihydro-1H,2′H-2,2′-biinden-2′-yl]methyl}benzoic acid | 105 mg, 36% | N[C@@H](C(C)C)C(=O)O[C@H]1[C@@](CC2=CC=CC=C12)(C=1CC2=CC=CC=C2C1)CC1=CC=C(C(=O)O)C=C1 | C31H31NO4
